US04742061
8-Bromo-1,10a-dihydropyrrolo[1,2-b]isoquinoline-3,10-[2H,5H]-dione oxime
A suspension of 88.31 g of 8-bromo-1,10a-dihydropyrrolo[1,2-b]isoquinoline-3,10[2H,5H]-dione in 95% ethanol (550 ml) was treated with a premixed solution of 85.73 g of sodium acetate trihydrate in water (300 ml) and 43.78 g of hydroxylamine hydrochloride in water (300 ml). The solution was refluxed for 2 hours. The reaction mixture was then cooled to room temperature at which time a precipitate began to separate from the mixture. The precipitate was isolated by vacuum filtration.

reactant | 8-bromo-1,10a-dihydropyrrolo[1,2-b]isoquinoline-3,10[2H,5H]-dione | 88.31 g | BrC1=CC=2C(C3N(CC2C=C1)C(CC3)=O)=O | C12H10BrNO2
reactant | sodium acetate trihydrate | 85.73 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 43.78 g | Cl.NO
solvent | ethanol | 550 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | 8-Bromo-1,10a-dihydropyrrolo[1,2-b]isoquinoline-3,10-[2H,5H]-dione oxime | BrC1=CC=2C(C3N(CC2C=C1)C(CC3)=NO)=O | C12H11BrN2O2
